US08871756B2
1-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]piperidin-3-amine
A mixture of 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (0.2 g, 0.54 mmol, prepared in analogy to the one in Example 2-1), piperidin-3-ylamine hydrochloric acid salt (0.275 g, 1.6 mmol) and N,N-diisopropylethylamine (1 mL) was heated at 160° C. under microwave irradiation for 1 hour. After being cooled to room temperature, the mixture was purified by preparative HPLC and SPE. After SPE separation, the eluent was concentrated in vacuo to remove the organic solution. The residue was dried by lyophylization to give 52.3 mg of the desired product (yield was 22.3%). MS obsd. (ESI+) [(M+H)+] 437, 1H NMR (400 MHz, CD3OD) δ ppm 8.09-8.07 (d, J=8 Hz, 1 H), 7.87-7.85 (q, J=7.2 Hz, 1 H), 7.85-7.82 (m, 1 H), 7.73-7.68 (q, J=14 Hz, 2 H), 7.62-7.55 (m, 2 H), 6.56 (s, 1 H), 5.37 (s, 2 H), 4.57 (s, 2 H), 3.90-3.88 (d, J=9.6 Hz, 1 H), 3.75 (s, 2 H), 3.67-3.66 (m, 1 H), 3.51-3.48 (d, J=11.6 Hz, 1 H), 3.26-3.24 (d, J=9.6 Hz, 1 H), 3.24-3.14 (m, 1 H), 2.49 (s, 3 H), 2.26-2.22 (m, 1 H), 2.14-2.10 (m, 1 H), 1.99-1.92 (m, 1 H), 1.91-1.78 (m, 1 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | piperidin-3-ylamine hydrochloric acid salt | 1.6 mmol, 0.275 g | Cl.N1CC(CCC1)N
reactant | N,N-diisopropylethylamine | 1 mL | C(C)(C)N(C(C)C)CC | C8H19N
product | 1-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]piperidin-3-amine | 52.3 mg, yield was 22.3% | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)N2CC(CCC2)N)C)=O | C24H28N4O2S
